US07511041B2
To a solution of N-imidazo[1,2-c]quinazolin-5-ylnicotinamide (40 mg, 0.14 mmol) in methanol (20 ml) was added a 4N solution of HCl in 1,4dioxane (0.5 ml). The mixture was concentrated under reduced pressure. The resulting solid was collected by filtration, washed with tetrahydrofurane and dried under reduced pressure to give N-imidazo[1,2-c]quinazolin-5-ylnicotinamide hydrochloride (40 mg, 89% yield) as a white solid.

reactant | N-imidazo[1,2-c]quinazolin-5-ylnicotinamide | 0.14 mmol, 40 mg | N=1C=CN2C(=NC=3C=CC=CC3C21)NC(C2=CN=CC=C2)=O | C16H11N5O
reactant | HCl | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | 1,4dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
product | N-imidazo[1,2-c]quinazolin-5-ylnicotinamide hydrochloride | 40 mg, 89% yield | Cl.N=1C=CN2C(=NC=3C=CC=CC3C21)NC(C2=CN=CC=C2)=O | InChI=1S/C16H11N5O.ClH/c22-15(11-4-3-7-17-10-11)20-16-19-13-6-2-1-5-12(13)14-18-8-9-21(14)16;/h1-10H,(H,19,20,22);1H
